US05962487
Preparation of Intermediate CBZ-L-Leu-L-Pip.
Trifluoroacetic acid (3 mL) was added to a solution of CBZ-L-Leu-L-Pip-OtBu (0.57 g, 1.3 mmol) in CH2Cl2 (6 mL) at 23° C. The reaction mixture was stirred at 23° C. for 1.5 h after which CCl4 (6 mL) was added. The volatiles were then removed under reduced pressure to afford crude CBZ-L-Leu-L-Pip as a colorless oil. The crude acid thus obtained was immediately utilized in the following coupling procedure.

reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | CBZ-L-Leu-L-Pip-OtBu | 1.3 mmol, 0.57 g | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCCC1)C(=O)OCC1=CC=CC=C1 | C24H36N2O5
reactant | CCl4 | 6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | CBZ-L-Leu-L-Pip | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)O)CCCC1)C(=O)OCC1=CC=CC=C1 | C20H28N2O5
